US05270309
Treatment of methyl 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (3 g) with sodium hydroxide (1.57 g) as described in Example 1c, gave 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (2.15 g). m.p. 290° C. (dec), δ (360 MHz, NAOD) 6.69 (1H, s, 3-H) and 7.66 (1H, s, 8-H) (Found: C, 40.90; H, 1.15; N, 4.78%, C10H4NO3Cl3 requires C, 41.06; H, 1.38; N, 4.79%).

reactant | methyl 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 3 g | ClC1=C2C(C=C(NC2=CC(=C1Cl)Cl)C(=O)OC)=O | C11H6Cl3NO3
reactant | sodium hydroxide | 1.57 g | [OH-].[Na+]
product | 5,6,7-trichloro-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 2.15 g | ClC1=C2C(C=C(NC2=CC(=C1Cl)Cl)C(=O)O)=O | C10H4Cl3NO3
